US05859007
(+)-2-[3-(1H-Indazol-3-yl methyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxyphenyl) acetamide
To a stirred solution of 400 mg (0.556 mmol) of 2-{2,4-Dioxo-3-[1-(2-oxo-thiazolidine-4-carbonyl)-1H-indazol-3-yl methyl]-5-pyridin-3-yl-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl}-N-isopropyl-N-(4-methoxyphenyl) acetamide, prepared as in Example 71 in 10 mL methanol is added 154 mg (1.11 mmol, 2 equiv.) of potassium carbonate. The suspension is stirred for 20 min and diluted with 25 mL EtOAc and 25 mL H2O. The organic phase is washed with H2O (2×25 mL) and then dried (MgSO4), and the solvents removed in vacuo. The resulting amorphous solid is swirled in 10 mL ether until a free flowing white solid is produced. The solid is filtered to give 258 mg of the title compound: mp. 214°-215° C.; [a]25 =+47.2; 1H NMR (CDCl3, 400 MHz) δ8.49 (d, br, 2H), 7.79 (d, 2H, J=8.0), 7.29-7.07 (m, 8H) 6.95-6.85 (m, 4H) 4.94 (m, 1H), 4.38 (d, br, 1H, J=15.6) 4.25-4.14 (m, 2H) 3.82 (s, 3H) 3.77 (m, 1H) 3.60 (dd, 1H, J=6.0, 16.1) 1.02 (t, 6H, J=7.7); low resolution MS (FAB)m/e 589 (MH+).

reactant | 2-{2,4-Dioxo-3-[1-(2-oxo-thiazolidine-4-carbonyl)-1H-indazol-3-yl methyl]-5-pyridin-3-yl-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl}-N-isopropyl-N-(4-methoxyphenyl) acetamide | 0.556 mmol, 400 mg | O=C1C(C(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O)CC2=NN(C1=CC=CC=C21)C(=O)C2NC(SC2)=O | C38H35N7O6S
reactant | potassium carbonate | 1.11 mmol, 154 mg, 2 equiv. | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 25 mL | O | H2O
product | (+)-2-[3-(1H-Indazol-3-yl methyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxyphenyl) acetamide | 258 mg | N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O | C34H32N6O4
